US07842758B2
4,9-Dibromo-6,7-bis(3′,7′-dimethyloctyl)[1,2,5]thiadiazolo[3,4-g]quinoxaline
5,6-Diamino-4,7-dibromobenzo[c][1,2,5]thiadiazole (0.224 g, 6.91×10−4 mol) was dissolved in acetic acid (40 ml). 2,6,13,17-Tetramethyloctadecane-9,10-dione (0.261 g, 7.71×10−4 mol) was added, and the reaction mixture was stirred for 71 h at room temperature under N2. After the solvent was evaporated, water was added, and the mixture was extracted with CHCl3. The combined organic layers were washed with water, aq. NaHCO3 and dried over Na2SO4. After the solvent was evaporated, the residue was chromatographed on silica gel with CHCl3 and further purified by size exclusion column chromatography (BioRad Bio-Beads SX-1 packed in THF, gravity flow). Yield=0.360 g (83% based on 0.224 g of 5,6-diamino-4,7-dibromobenzo[c][1,2,5]thiadiazole). 1H NMR (250 MHz, CDCl3): δ 3.01-3.22 (m, 4H, Ar—CH2), 1.11-2.09 (m, 20H, (CH3)2CHCH2 CH2CH2CH(CH3)CH2CH2Ar), 1.03 (d, 6H, J=6.5 Hz, —CH3), 0.88 (d, 12H, J=6.6 Hz, —CH3). CI MS m/z: 625.157 ((M+H)+) (calcd 625.158).

reactant | 5,6-Diamino-4,7-dibromobenzo[c][1,2,5]thiadiazole | 6.91×10−4 mol, 0.224 g | NC1=C(C=2C(=NSN2)C(=C1N)Br)Br | C6H4Br2N4S
reactant | 2,6,13,17-Tetramethyloctadecane-9,10-dione | 7.71×10−4 mol, 0.261 g | CC(C)CCCC(CCC(C(CCC(CCCC(C)C)C)=O)=O)C | C22H42O2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 4,9-Dibromo-6,7-bis(3′,7′-dimethyloctyl)[1,2,5]thiadiazolo[3,4-g]quinoxaline | BrC=1C=2C(C(=C3N=C(C(=NC13)CCC(CCCC(C)C)C)CCC(CCCC(C)C)C)Br)=NSN2 | C28H42Br2N4S
